US03936444
300 G of hydrogen chloride gas were introduced into a solution of 1,000g(7 moles) of 3-chlorophenylhydrazine and 980 g (7.7 moles) of caprolactim-methyl-ether in 4,000 ml of methanol at 10° to 20°C while stirring and cooling with an ice bath, and the reaction mixture was kept for a further hour at 20°C, raised to the reflux temperature and kept at 65°C for 11/2 hours. After cooling, the crystals which had separated out were filtered off and further crystal fractions were isolated by concentrating the mother liquors under reduced pressure. After recrystallization from 2 parts of methanol, 1,845 g (96% of theory) of caprolactam-(3-chlorophenylhydrazone) hydrochloride were obtained as colorless crystals of melting point 280° to 282°C.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-chlorophenylhydrazine | ClC=1C=C(C=CC1)NN | C6H7ClN2
reactant | caprolactim methyl-ether | 7.7 moles, 980 g | C=1(CCCCCN1)O.COC
solvent | methanol | 4,000 ml | CO | CH4O
product | caprolactam-(3-chlorophenylhydrazone) hydrochloride | 1,845 g, 96% | Cl.ClC=1C=C(C=CC1)NN=C1CCCCCN1 | InChI=1S/C12H16ClN3.ClH/c13-10-5-4-6-11(9-10)15-16-12-7-2-1-3-8-14-12;/h4-6,9,15H,1-3,7-8H2,(H,14,16);1H
